US07947738B2
(14-h) Tert-butyl(±)-[(1S,5R,6R)-6-(nitromethyl)-3-cyclopentylbicyclo[3.2.0]hept-3-en-6-yl]acetate
Tert-butyl(±)-[(1S,5R)-3-cyclopentylbicyclo[3.2.0]hept-3-en-6-ylidene]acetate (3.30 g, 12.0 mmol) was dissolved in nitromethane (30 mL). To the solution, 1,8-diazabicyclo[5.4.0]undec-7-ene (2.20 g, 14.5 mmol) was added, and the mixture was stirred at 60° C. for 5 hours. The mixture was allowed to cool, and a saturated aqueous solution of potassium dihydrogen phosphate was then added thereto, followed by extraction with dichloromethane. The organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel chromatography to obtain the compound of interest as a yellow oil substance (3.50 g, 87%).

reactant | Tert-butyl(±)-[(1S,5R)-3-cyclopentylbicyclo[3.2.0]hept-3-en-6-ylidene]acetate | 12.0 mmol, 3.30 g | C1(CCCC1)C=1C[C@H]2CC([C@H]2C1)=CC(=O)OC(C)(C)C | C18H26O2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 14.5 mmol, 2.20 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | potassium dihydrogen phosphate | P(=O)(O)(O)[O-].[K+]
reactant | nitromethane | 30 mL | [N+](=O)([O-])C | CH3NO2
product | Tert-butyl(±)-[(1S,5R,6R)-6-(nitromethyl)-3-cyclopentylbicyclo[3.2.0]hept-3-en-6-yl]acetate | [N+](=O)([O-])C[C@@]1([C@H]2C=C(C[C@H]2C1)C1CCCC1)CC(=O)OC(C)(C)C | C19H29NO4
